US05700809
2-Bromonaphthalene (24.75 g, 0.12 mol) in tetrahydrofuran (180 ml) was slowly added to magnesium (2.9 g, 0.12 mol) in tetrahydrofuran (20 ml) and the mixture stirred at room temperature for one hour. The resultant solution was slowly added to 1-acetyl-4-piperidone (16.9 g, 0.12 mol) in tetrahydrofuran (200 ml) at -78° C., and then allowed to stir to room temperature. The white suspension formed was hydrolysed with hydrochloric acid (120 ml, 1M) and the organic layer removed and concentrated in vacuo. The residue was taken up in dichloromethane, dried (MgSO4), and concentrated to leave a clear oil. Trituration of this oil with diethyl ether gave 1-(4-hydroxy-4-naphthalen-2-yl-piperidin-1-yl)ethanone (13.92 g, 43%) as a white solid; δH (CDCl3) 1.90 (4H, m, 2× piperidinyl CH2), 2.10 (2H, m, piperidinyl CH2), 2.15 (3H, s, COCH3), 3.20 (1H, m, piperidinyl H), 3.70 (1H, m, piperidinyl H), 4.60 (1H, br m, OH), 7.50 (2H, m, ArH), 7.60 (1H, dd, J 9.6, 1.6 Hz, ArH), and 7.90 (4H, m, ArH).

reactant | 2-Bromonaphthalene | 0.12 mol, 24.75 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | magnesium | 0.12 mol, 2.9 g | [Mg] | Mg
reactant | 1-acetyl-4-piperidone | 0.12 mol, 16.9 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | hydrochloric acid | 1M, 120 ml | Cl | ClH
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-hydroxy-4-naphthalen-2-yl-piperidin-1-yl)ethanone | 13.92 g, 43% | OC1(CCN(CC1)C(C)=O)C1=CC2=CC=CC=C2C=C1 | C17H19NO2
